US05852016
N-(2,3-Dimethoxy-6,7-dimethylquinoxalin-5-yl)-ethanesulphonamide
A mixture of 5-amino-2,3-dimethoxy-6,7-dimethylquinoxaline (from Preparation 2) (50 mg, 0.214 mmol), ethanesulphonyl chloride (138 mg, 1.07 mmol) and pyridine (87 μl, 1.07 mmol) in dry tetrahydrofuran (1 ml) was stirred at 20° C. for 3.5 hours. Additional portions of ethanesulphonyl chloride (138 mg, 1.07 mmol) and pyridine (87 ml, 1.07 mmol) were added and the mixture was stirred for a further 4 days. Water (0.6 ml) was added, and the mixture was stirred for 40 minutes. The mixture was partitioned between ethyl acetate (15 ml) and 2M hydrochloric acid (5 ml). The organic solution was washed with water (5 ml), saturated aqueous sodium bicarbonate (5 ml), dried (MgSO4), and concentrated under reduced pressure to give the title compound (67 mg, 96%) as a straw-coloured solid, m.p. 201°-203° C.

reactant | 5-amino-2,3-dimethoxy-6,7-dimethylquinoxaline | 0.214 mmol, 50 mg | NC1=C2N=C(C(=NC2=CC(=C1C)C)OC)OC | C12H15N3O2
reactant | ethanesulphonyl chloride | 1.07 mmol, 138 mg | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | pyridine | 1.07 mmol, 87 μl | N1=CC=CC=C1 | C5H5N
reactant | ethanesulphonyl chloride | 1.07 mmol, 138 mg | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | pyridine | 1.07 mmol, 87 ml | N1=CC=CC=C1 | C5H5N
reactant | Water | 0.6 ml | O | H2O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | N-(2,3-Dimethoxy-6,7-dimethylquinoxalin-5-yl)-ethanesulphonamide | 67 mg, 96% | COC1=NC2=CC(=C(C(=C2N=C1OC)NS(=O)(=O)CC)C)C | C14H19N3O4S
